US05516774
3-Chloro-10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 1 mmol of 3-chloro-10,11-dihydro-10-(4-nitroaminobenzoyl)-5H-pyrrolo[2,1-c][1,4]-benzodiazepine, 2.5 mmol of anhydrous hydrazine, 50 mg of palladium on carbon and 10 ml of ethyl alcohol is refluxed for 1.5 hours. The mixture is filtered through diatomaceous earth and the filtrate concentrated to dryness to give the desired product as a solid.

reactant | 3-chloro-10,11-dihydro-10-(4-nitroaminobenzoyl)-5H-pyrrolo[2,1-c][1,4]-benzodiazepine | 1 mmol | ClC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(C3=CC=C(C=C3)N[N+](=O)[O-])=O | C19H15ClN4O3
reactant | hydrazine | 2.5 mmol | NN | H4N2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
product | 3-Chloro-10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | ClC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(C3=CC=C(C=C3)N)=O | C19H16ClN3O
